2152-04-22 07:06:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: toothache, AMS, fever
   24 Hour Events:
   - OSH Contact[**Name (NI) **]. [**Name2 (NI) **] HSV PCR sent on CSF sample but will add it on and
   will fax results to us if any Cx are positive.
   - CT Neck: No abscess.
   - CT Head: (Prelim) No evidence for abscess. Fluid level in the left
   maxillary sinus and mild mucosal thickening in bilateral frontal and
   ethmoid sinuses as well as the sphenoid sinus. This may be related to
   intubation.
   - Panorex performed, read pending
   - Per ID: Continue unasyn/doxy and d/c other antibiotics.
   - MRI, MRA, MRV head ordered
   - per family, pt. with hx of dysphagia & difficulty with even soft
   solids prior to admission, past hx of reflux
   - Lyme titers sent; blood smear for parasites neg x 1, need repeat x 2
   for greater sensitivity per CDC recs
   - Per family: has h/o repair to L elbow w/ metal. Plain films obtained
   showing 2 screws in L elbow. Per Rads, cannot clear for MRI until
   manufaturing specifics of screws are known. Hold on MRI for now until
   more infomation can be obtained.
   - pt. required increasing amounts of propofol for sedation overnight
   and also received versed boluses due to agitation.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2152-4-21**] 10:52 AM
   Ceftriaxone - [**2152-4-21**] 10:53 AM
   Acyclovir - [**2152-4-21**] 11:50 AM
   Doxycycline - [**2152-4-22**] 12:00 AM
   Ampicillin - [**2152-4-22**] 06:10 AM
   Infusions:
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2152-4-21**] 10:53 AM
   Heparin Sodium (Prophylaxis) - [**2152-4-22**] 01:56 AM
   Midazolam (Versed) - [**2152-4-22**] 05:05 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2152-4-22**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.8
C (96.5
   HR: 83 (77 - 107) bpm
   BP: 121/69(80) {111/57(70) - 198/105(118)} mmHg
   RR: 18 (10 - 19) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,844 mL
                                                                  1,526 mL
   PO:
             TF:
   IVF:
                                                                  2,844 mL
                                                                  1,526 mL
   Blood products:
   Total out:
                                                                  1,510 mL
                                                                    300 mL
   Urine:
                                                                  1,510 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,334 mL
                                                                  1,226 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 43
   PIP: 27 cmH2O
   Plateau: 18 cmH2O
   SpO2: 97%
   ABG: 7.37/49/140/27/2
   Ve: 8.6 L/min
   PaO2 / FiO2: 280
   Physical Examination
   GEN: Intubated/sedated.
   HEENT: Pupils 4mm->3mm
   CV: Regular. No obvious murmurs.
   PULM: Clear anteriorly.
   ABD: Soft; no apparent tenderness
   EXT: Warm. No edema. No lesions; right BKA
   SKIN: No rash noted.
   NEURO: Pupils as above; sedated so unable to assess further
   Labs / Radiology
   266 K/uL
   9.9 g/dL
   77 mg/dL
   0.9 mg/dL
   27 mEq/L
   3.7 mEq/L
   11 mg/dL
   100 mEq/L
   136 mEq/L
   31.1 %
   9.5 K/uL
        [image002.jpg]
                             [**2152-4-21**]  11:04 AM
                             [**2152-4-21**]  04:34 PM
                             [**2152-4-21**]  10:11 PM
                             [**2152-4-22**]  03:16 AM
   WBC
   10.0
   7.7
   9.5
   Hct
   30.5
   29.9
   31.1
   Plt
   298
   282
   266
   Cr
   0.9
   0.9
   TCO2
   29
   Glucose
   72
   77
   Other labs: PT / PTT / INR:12.9/29.8/1.1, ALT / AST:15/17, Alk Phos / T
   Bili:52/0.3, Lactic Acid:0.6 mmol/L, Albumin:3.5 g/dL, LDH:138 IU/L,
   Ca++:8.3 mg/dL, Mg++:1.7 mg/dL, PO4:3.0 mg/dL
   CT Head & Neck
 no evidence of abscess; fluid levels in ethmoid,
   sphenoid, and frontal sinuses.
   Assessment and Plan
   71M with history of alcohol abuse, but no recent use, presenting with
   toothache, mental status change, and fever.
   1. Mental status change, fever: [**Month (only) 51**] be due simply to medication effect
   (percocet) in an elderly male, though does not explain initial fever.
   Initially, suspicion for infection high, though patient afebrile here
   and WBC count not elevated.  LP at OSH was not consistent with
   meningitis.  CT head & neck here without evidence of odontogenic or
   soft tissue neck abscess.  Unable to obtain MRI overnight due to metal
   screws in left elbow and inability to clear patient for MRI scanner as
   unable to obtain OSH records regarding placement.
   - cont. doxycycline and unasyn for empiric coverage of ricketsial
   disease and oral flora
   - f/u ID recs
   - repeat thick & thin smear for parasites today & tomorrow for total of
   3
   - Try to obtain records on left elbow screws to potentially clear pt
   for MRI scanner
   2. Respiratory failure
 Patient initially intubated only for LP per
   report.  Had good RSBI this morning.  Continues to become agitated with
   lifting of sedation.  Question regarding weaning from vent does not
   currently seem to be secondary to respiratory issues, but more due to
   mental status.
   - spontaneous breathing trial this morning
   - attempt extubation and try to better assess mental status once
   propofol clear
   - may need haldol or zyprexa prn
   .
   3. Hematuria: Unclear etiology, may be related to foley placement.  Has
   now resolved.
   .
   4. ?Coffee grounds aspirated from NGT
 appears less red this morning.
   Will continue to monitor NGT output.
   FEN: NPO for possible extubation
   PPX: SC heparin; PPI
   Code: presumed full
   Communication: Spokesperson is patient
s daughter [**Name (NI) **] who requests
   no info be given to daughter [**Name (NI) 837**]; [**Name2 (NI) 51**] also communicate with
   patient
s wife.  Phone numbers on board in room.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2152-4-21**] 06:11 AM
   18 Gauge - [**2152-4-21**] 07:13 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2152-04-22 10:40:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   71 yo man, traumatic R BKA, COPD, fever, recent detnal pain. Presented
   with altered MS, and intubated at OSH at [**Location (un) 1479**].  LP with 3 WBC.   ID
   consulted, and recommended stopping antbiotics except for unasyn and
   doxy.
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2152-4-21**] 10:52 AM
   Ceftriaxone - [**2152-4-21**] 10:53 AM
   Acyclovir - [**2152-4-21**] 11:50 AM
   Doxycycline - [**2152-4-22**] 12:00 AM
   Ampicillin - [**2152-4-22**] 06:10 AM
   Infusions:
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2152-4-22**] 01:56 AM
   Pantoprazole (Protonix) - [**2152-4-22**] 08:31 AM
   Midazolam (Versed) - [**2152-4-22**] 08:50 AM
   Other medications:
   doxycycline
   unasyn
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2152-4-22**] 10:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36
C (96.8
   HR: 97 (76 - 97) bpm
   BP: 169/94(105) {111/57(70) - 169/105(118)} mmHg
   RR: 16 (14 - 19) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,844 mL
                                                                  1,773 mL
   PO:
             TF:
   IVF:
                                                                  2,844 mL
                                                                  1,773 mL
   Blood products:
   Total out:
                                                                  1,510 mL
                                                                    625 mL
   Urine:
                                                                  1,510 mL
                                                                    625 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,334 mL
                                                                  1,148 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 43
   PIP: 22 cmH2O
   Plateau: 17 cmH2O
   SpO2: 98%
   ABG: 7.37/49/140/27/2
   Ve: 11.2 L/min
   PaO2 / FiO2: 280
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.9 g/dL
   266 K/uL
   77 mg/dL
   0.9 mg/dL
   27 mEq/L
   3.7 mEq/L
   11 mg/dL
   100 mEq/L
   136 mEq/L
   31.1 %
   9.5 K/uL
        [image002.jpg]
                             [**2152-4-21**]  11:04 AM
                             [**2152-4-21**]  04:34 PM
                             [**2152-4-21**]  10:11 PM
                             [**2152-4-22**]  03:16 AM
   WBC
   10.0
   7.7
   9.5
   Hct
   30.5
   29.9
   31.1
   Plt
   298
   282
   266
   Cr
   0.9
   0.9
   TCO2
   29
   Glucose
   72
   77
   Other labs: PT / PTT / INR:12.9/29.8/1.1, ALT / AST:15/17, Alk Phos / T
   Bili:52/0.3, Lactic Acid:0.6 mmol/L, Albumin:3.5 g/dL, LDH:138 IU/L,
   Ca++:8.3 mg/dL, Mg++:1.7 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**]):  Will try SBT.  If does
   well will try to extubate.
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA):  No further
   fevers.
 H/O ALTERED MENTAL STATUS (NOT DELIRIUM):  Unclear cause.  LP largely
   negative.  WBC is normal and has been afebrile here making infection
   less likely.  Unable to get MRI, as he has screws in an elbow, and we
   haven't gotten records to confirm that they are compatible.   Unclear
   where he is in terms of his mental status given need for sedation to
   control agitation in setting of intubation.  If he does well wil SBT,
   will try extubation and see if MS clears with stoppage of sedation.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2152-4-21**] 06:11 AM
   18 Gauge - [**2152-4-21**] 07:13 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2152-04-23 05:38:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Extubated. Was initially hypertensive and tachycardic but normalized.
   Was given 500cc NS bolus.
   - Alert and oriented x 3 but unable to provide good history of what
   prompted his hospitalization
   - MRI attempted(hardware in left elbow okay per radiology tech) - pt
   wouldn't stay still despite 2 mg Ativan IV.
 MAGNETIC RESONANCE IMAGING - At [**2152-4-22**] 09:52 PM
   head but patient non compliant therefore not finished
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2152-4-21**] 10:52 AM
   Ceftriaxone - [**2152-4-21**] 10:53 AM
   Acyclovir - [**2152-4-21**] 11:50 AM
   Ampicillin - [**2152-4-23**] 12:00 AM
   Doxycycline - [**2152-4-23**] 12:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2152-4-22**] 08:31 AM
   Midazolam (Versed) - [**2152-4-22**] 08:50 AM
   Lorazepam (Ativan) - [**2152-4-22**] 09:53 PM
   Heparin Sodium (Prophylaxis) - [**2152-4-23**] 01:49 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2152-4-23**] 05:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.4
C (97.5
   HR: 78 (76 - 124) bpm
   BP: 123/54(71) {114/54(71) - 182/100(112)} mmHg
   RR: 12 (10 - 23) insp/min
   SpO2: 95% on 3L O2 via NC
   (89-92% on room air)
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,254 mL
                                                                    256 mL
   PO:
             TF:
   IVF:
                                                                  3,254 mL
                                                                    256 mL
   Blood products:
   Total out:
                                                                  3,280 mL
                                                                    345 mL
   Urine:
                                                                  2,630 mL
                                                                    345 mL
   NG:
                                                                    650 mL
   Stool:
   Drains:
   Balance:
                                                                    -26 mL
                                                                    -89 mL
   Physical Examination
   GEN: sleeping
   HEENT: Pupils 4mm->3mm
   CV: Regular. No obvious murmurs.
   PULM: Clear to ausculatation.
   ABD: Soft; no apparent tenderness
   EXT: Warm. No edema. No lesions; right BKA
   SKIN: No rash noted.
   NEURO: alert and oriented x 2.5 (
 instead of [**Hospital1 19**]). Otherwise
   appropriate. Moving all extremities. Strength 5/5.
   Labs / Radiology
   308 K/uL
   9.4 g/dL
   76 mg/dL
   0.9 mg/dL
   27 mEq/L
   3.8 mEq/L
   10 mg/dL
   102 mEq/L
   139 mEq/L
   28.5 %
   10.0 K/uL
        [image002.jpg]
                             [**2152-4-21**]  11:04 AM
                             [**2152-4-21**]  04:34 PM
                             [**2152-4-21**]  10:11 PM
                             [**2152-4-22**]  03:16 AM
                             [**2152-4-23**]  03:26 AM
   WBC
   10.0
   7.7
   9.5
   10.0
   Hct
   30.5
   29.9
   31.1
   28.5
   Plt
   298
   282
   266
   308
   Cr
   0.9
   0.9
   0.9
   TCO2
   29
   Glucose
   72
   77
   76
   Other labs: PT / PTT / INR:14.0/39.5/1.2, ALT / AST:15/17, Alk Phos / T
   Bili:52/0.3, Lactic Acid:0.6 mmol/L, Albumin:3.5 g/dL, LDH:138 IU/L,
   Ca++:8.2 mg/dL, Mg++:2.0 mg/dL, PO4:3.5 mg/dL
   MRI brain [**2152-4-22**]
 incomplete study. Read pending.
   Assessment and Plan
   71M with history of alcohol abuse, but no recent use, presenting with
   toothache, mental status change, and fever.
   1. Mental status change, fever: [**Month (only) 51**] be due simply to medication effect
   (percocet) in an elderly male, though does not explain initial fever.
   Initially, suspicion for infection high, though patient afebrile here
   and WBC count not elevated.  LP at OSH was not consistent with
   meningitis.  CT head & neck here without evidence of odontogenic or
   soft tissue neck abscess.  Attempted MRI of head however pt was able to
   tolerate it (cleared the issue of hardware in left elbow s/p ORIF in
   [**2144**] at [**Hospital1 6309**] pt ok for MRI) Pt not able to remember any events or
   symptoms that led to his hospitalization.
   - cont. doxycycline and unasyn for empiric coverage of ricketsial
   disease and oral flora
   - f/u ID recs
   - repeat thick & thin smear for parasites today & tomorrow for total of
   3 (so far negative x2 thin smears)
   - f/u microbio studies that were sent at OSH ([**First Name11 (Name Pattern1) 1384**]
[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 1385**]
   hospital)
   2. [**Last Name (NamePattern4) **] failure
 Patient initially intubated only for LP per
   report.  Was successfully extubated yesterday. Was hypertensive and
   tachycardic post-intubation but both HR and BP normalized after 500cc
   NS bolus. Now satting well on O2 NC
   .
   3. AMS
 was noted to be altered on presentation to OSH. Pt now alert
   and oriented x 3 after discontinuation of sedation and extubation.
   However unable to give good history of presentation.
   - Ask family about pt
s baseline mental status
   - f/u MRI head (although incomplete)
   .
   FEN: speech and swallow (on soft solids at home) study then PO diet .
   PPX: SC heparin; d/c PPI as pt no longer intubated
   Code: presumed full
   Communication: Spokesperson is patient
s daughter [**Name (NI) **] who requests
   no info be given to daughter [**Name (NI) 837**]; [**Name2 (NI) 51**] also communicate with
   patient
s wife.  Phone numbers on board in room.
   Dispo: likely call out today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2152-4-21**] 06:11 AM
   20 Gauge - [**2152-4-22**] 12:36 PM
   18 Gauge - [**2152-4-22**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   After AM rounds, the following were adjusted/added:
   D/C Unasyn today since no evidence of odontogenic abscesses/infection
   Pt had h/o coffee ground material that was aspirated upon intubation
   and PPI was thus added. Will still d/c PPI now, since pt is taking POs
   and no longer intubated with no further episodes of coffee ground
   emesis, but will need to monitor for recurrence.
   Cancel Sp and Sw eval; RN will monitor how pt does on soft solids and
   use clinical judgement (pt did well with water this AM). Pt is mostly
   adentulous with no dentures.
   Pt had marked hematuria when foley was placed; likely was due to trauma
   since it has cleared now but will d/c foley today and send next void
   for U/A
   ------ Protected Section Addendum Entered By:[**Name (NI) 1076**] [**Name8 (MD) 991**], MD
   on:[**2152-4-23**] 10:15 ------

2152-04-23 10:06:00 Physician Attending Progress Note
Chief Complaint: [** **] failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   71 yo man transferred from OSH with altered MS [**First Name (Titles) **] [**Last Name (Titles) **]
   failure.  Unclear cause.  Was extubated yesterday and has done well.
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2152-4-22**] 09:52 PM
   head but patient non compliant therefore not finished
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2152-4-21**] 10:52 AM
   Ceftriaxone - [**2152-4-21**] 10:53 AM
   Acyclovir - [**2152-4-21**] 11:50 AM
   Doxycycline - [**2152-4-23**] 12:00 AM
   Ampicillin - [**2152-4-23**] 05:47 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2152-4-22**] 09:53 PM
   Heparin Sodium (Prophylaxis) - [**2152-4-23**] 01:49 AM
   Other medications:
   protonix
   doxycycline
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: No(t) Dry mouth
   Cardiovascular: No(t) Chest pain
   [**Year (4 digits) **]: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea
   Genitourinary: No(t) Dysuria
   Musculoskeletal: No(t) Joint pain
   Integumentary (skin): No(t) Rash
   Neurologic: No(t) Headache
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2152-4-23**] 10:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.6
C (97.8
   HR: 83 (77 - 124) bpm
   BP: 147/70(88) {114/54(71) - 182/100(112)} mmHg
   RR: 11 (10 - 23) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,254 mL
                                                                    519 mL
   PO:
             120 mL
   TF:
   IVF:
                                                                  3,254 mL
                                                                    399 mL
   Blood products:
   Total out:
                                                                  3,280 mL
                                                                    560 mL
   Urine:
                                                                  2,630 mL
                                                                    560 mL
   NG:
                                                                    650 mL
   Stool:
   Drains:
   Balance:
                                                                    -26 mL
                                                                    -41 mL
   [**Year (4 digits) **] support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   PS : 5 cmH2O
   FiO2: 50%
   SpO2: 91%
   ABG: ///27/
   Ve: 12.4 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.4 g/dL
   308 K/uL
   76 mg/dL
   0.9 mg/dL
   27 mEq/L
   3.8 mEq/L
   10 mg/dL
   102 mEq/L
   139 mEq/L
   28.5 %
   10.0 K/uL
        [image002.jpg]
                             [**2152-4-21**]  11:04 AM
                             [**2152-4-21**]  04:34 PM
                             [**2152-4-21**]  10:11 PM
                             [**2152-4-22**]  03:16 AM
                             [**2152-4-23**]  03:26 AM
   WBC
   10.0
   7.7
   9.5
   10.0
   Hct
   30.5
   29.9
   31.1
   28.5
   Plt
   298
   282
   266
   308
   Cr
   0.9
   0.9
   0.9
   TCO2
   29
   Glucose
   72
   77
   76
   Other labs: PT / PTT / INR:14.0/39.5/1.2, ALT / AST:15/17, Alk Phos / T
   Bili:52/0.3, Lactic Acid:0.6 mmol/L, Albumin:3.5 g/dL, LDH:138 IU/L,
   Ca++:8.2 mg/dL, Mg++:2.0 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   Acute delirium and [**Year (4 digits) **] failure:  Most likely cause is percocet,
   as all tests were negative.  Can stop unasyn and doxy.
   Start soft solid diet
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2152-4-21**] 06:11 AM
   20 Gauge - [**2152-4-22**] 12:36 PM
   18 Gauge - [**2152-4-22**] 04:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes